US06310088B1
2-(3-Methyl-1H-benzo[b]thiophen-2-yl)-5-phenylpentanoic Acid
To a stirred solution of 3-methylbenzo[b]thiophene-2-acetic acid (1.00 g) in THF at −78° C. under nitrogen was added a solution of n-butyllithium in hexanes (2.5M; 3.98 ml). Stirring was continued for 15 mins at this temperature before 1-bromo-3-phenylpropane (965 mg) was added. The mixture was stirred for 30 mins before allowing to warm up to RT and then stirred at RT for a further 1 h. The reaction mixture was poured on to a mixture of water (50 ml) and 1 N sodium hydroxide solution (10 ml). The organic layer was separated and washed with water (2×10 ml), brine (10 ml) and dried (MgSO4). Filtration and evaporation of solvents under reduced pressure gaven the crude product, which was purificatied by silica gel column chromatography, eluting with 2:1 hexane/ethyl acetate, to give the title compound (579 mg, 37%) as a pale green oil. Rf 0.45 (2:1 hexane/ethyl acetate).

reactant | 3-methylbenzo[b]thiophene-2-acetic acid | 1.00 g | CC=1C2=C(SC1CC(=O)O)C=CC=C2 | C11H10O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-3-phenylpropane | 965 mg | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-(3-Methyl-1H-benzo[b]thiophen-2-yl)-5-phenylpentanoic Acid | 579 mg, 37% | CC=1C2=C(SC1C(C(=O)O)CCCC1=CC=CC=C1)C=CC=C2 | C20H20O2S
